US04607123
N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-sarcosine-o-nitrophenyl ester (XVIII)
6.85 g (10 mMol) N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-sarcosine and 1.7 g (12.2 mMol) o-nitrophenol are dissolved in 15 ml N,N-dimethylformamide. 60 ml tetrahydrofuran is added to this solution which is then cooled down to 0° C. 2,5 g (12 mMol) N,N-dicyclohexylcarbodiimide is added. The reaction runs for 2 hours at 0° C. and overnight at room temperature. The precipitate (N,N'-dicyclohexylurea) is filtered off, washed with 10 ml N,N-dimethylformamide, the tetrahydrofuran is distilled, the solution kept in the refrigerator overnight and then the dicyclohexylurea is again filtered off. The organic solution is added dropwise to 250 ml ether, the precipitate is decantered, dissolved with 25 ml N,N-dimethylformamide and added to water dropwise. The precipitate is filtered, washed with saturated sodium bicarbonate solution and water and dried. Yield: 5.4 g (67%).

reactant | N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-sarcosine | 10 mMol, 6.85 g | C(C)(=O)NC=1C(=C(C(=O)N(C)CC(=O)O)C(=C(C1I)NC(C)=O)I)I | C14H14I3N3O5
reactant | o-nitrophenol | 12.2 mMol, 1.7 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-sarcosine-o-nitrophenyl ester | [N+](=O)([O-])C1=C(C=CC=C1)OC(CN(C)C(C1=C(C(=C(C(=C1I)NC(C)=O)I)NC(C)=O)I)=O)=O | C20H17I3N4O7
